US03947580
Pulvinic acid (19.0 g., 0.0616 mol.) was refluxed in 250 ml. of acetic anhydride for 15 minutes. The cooled solution was stirred into 1200 ml. of ice and water and the oily mass was crystallized by stirring in 500 ml. of ethanol. The yellow solid was removed, washed with ethanol and dried to yield pulvinic acid lactone, m.p. 221.5°-223°.

reactant | Pulvinic acid | 0.0616 mol, 19.0 g | C1=CC=C(C=C1)C2=C(/C(=C(/C3=CC=CC=C3)\C(=O)O)/OC2=O)O | C18H12O5
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | pulvinic acid lactone | C1=CC=C(C=C1)C2=C3C(=C(C(=O)O3)C4=CC=CC=C4)OC2=O | C18H10O4
